US04898874
5-Chloro-7-methyl-3-phenyl-2,1-benzisoxazole
A solution of 175 ml of 30% hydrogen peroxide and 600 ml of glacial acetic acid was heated on a steam bath for 1 hr and cooled. The solution was treated with 36.8 g (0.15 mole) of (2-amino-5-chloro-3-methylphenyl)phenylmethanone and the mixture was heated at 55°-70° C. for 7 hr and let stand overnight at ambient temperature. The mixture was diluted with 2 liters of water and the solid was collected by filtration, washed with water and dried. The solid was recrystallized from 2-propanol to yield 18.2 g (50%) of pale-yellow needles, m.p. 108°-109° C.

reactant | hydrogen peroxide | 175 ml | OO | H2O2
reactant | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
reactant | (2-amino-5-chloro-3-methylphenyl)phenylmethanone | 0.15 mole, 36.8 g | NC1=C(C=C(C=C1C)Cl)C(=O)C1=CC=CC=C1 | C14H12ClNO
solvent | water | 2 liters | O | H2O
product | 5-Chloro-7-methyl-3-phenyl-2,1-benzisoxazole | 18.2 g, 50% | ClC=1C=C(C=2C(=C(ON2)C2=CC=CC=C2)C1)C | C14H10ClNO
